US07696231B2
a) Preparation of 2-(4cyanophenoxy)acetohydrazide (Scheme 2, compound B)
To a solution of methyl (4-cyanophenoxy)acetate (3.52 g, 18.4 mmol) in MEOH (100 mL) was added hydrazine hydrate (8.9 mL). After stirring for 1 h at rt, a solid precipitated out. Filtration, washing with MeOH (5 mL) and water (4×10 mL) and drying under vacuo at 50° C. overnight gave the title compound (2.63 g, 75%) as a white solid in 98.4% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl (4-cyanophenoxy)acetate | 18.4 mmol, 3.52 g | C(#N)C1=CC=C(OCC(=O)OC)C=C1 | C10H9NO3
reactant | hydrazine hydrate | 8.9 mL | O.NN
product | 2-(4cyanophenoxy)acetohydrazide | 2.63 g, 75% | C(#N)C1=CC=C(OCC(=O)NN)C=C1 | C9H9N3O2
